US05124421
N,O-dimethacryloylhydroxylamine was prepared by the reaction of hydroxylamine with methacryloyl chloride in pyridine medium. Hydroxylamine hydrochloride (10 g; 0.144 mol) was dissolved in 50 ml pyridine (0.632 mol) and 25.4 g (0.243 mol) methacryloyl chloride was dropwise added. Temperature of the reaction mixture was kept below 45° C. After completed addition of methacryloyl chloride, the mixture was stirred at ambient temperature for 2 hours. Then, the mixture was diluted with 100 ml chloroform and 21 ml hydrochloric acid (0.245 mol) was slowly dropwise added in order to transfer pyridine to its hydrochloride. The organic layer was separated, washed four times with 100 ml water, and then dried over MgSO4. Chloroform was evaporated in vacuum and the oily residue was dried in vacuum of an oil pump. The product crystallized during drying, the crystals were filtered and twice recrystallized from the mixture diethyl ether-light petroleum. The yield was 7.0 g (34%) N,O-dimethacryloylhydroxylamine, m.p. 55° C., elemental analysis: calculated C--56.70, H--6.55, N--8.28%; found C--56.74, H--6.22, N--8.34%.

reactant | hydroxylamine | NO | H3NO
reactant | methacryloyl chloride | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | Hydroxylamine hydrochloride | 0.144 mol, 10 g | Cl.NO
reactant | methacryloyl chloride | 0.243 mol, 25.4 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | hydrochloric acid | 0.245 mol, 21 ml | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 0.632 mol, 50 ml | N1=CC=CC=C1 | C5H5N
product | N,O-dimethacryloylhydroxylamine | C(C(=C)C)(=O)NOC(C(=C)C)=O | C8H11NO3
